US05750300
4-Bromomethylcyclohexanol (C-5) (3.0 g) and dihydropyran (2.6 g) were mixed together and cooled with ice. A tiny drop of 10% hydrochloric acid was added. Exothermic reaction occurred and stirred at ambient temperature overnight. The solution was neutralized with potassium carbonate and extracted with dichloromethane (50 ml). It was filtered and then dichloromethane from the filtrate was evaporated to yield the compound C-6, tetrahydropyranyl bromomethyl-cyclohexyl ether (5.0 g).

reactant | 4-Bromomethylcyclohexanol | 3.0 g | BrCC1CCC(CC1)O | C7H13BrO
reactant | dihydropyran | 2.6 g | O1CCCC=C1 | C5H8O
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | tetrahydropyranyl bromomethyl-cyclohexyl ether | 5.0 g | BrCC1(CCCCC1)OC1OCCCC1 | C12H21BrO2
